US09216985B2
Synthesis of (S)-5-fluoro-2-(1-((5-fluoro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one (Compound 17A)
Under nitrogen, to (S)-2-(1-aminoethyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one (76 mg, 0.20 mmol, 1.0 equiv) in t-BuOH (0.4 mL) at 23° C. was added 4-chloro-5-fluoro-7H-pyrrolo[2,3-d]pyrimidine (38 mg, 0.22 mmol, 1.1 equiv) and diisopropylethylamine (70 μL, 0.40 mmol, 2.0 equiv). After stirring for 16 hr at 120° C. in a sealed tube, the reaction mixture was concentrated in vacuo and the residue was purified by preparative TLC eluting with CH2Cl2/MeOH to afford 43 mg of the title compound (42% yield).

reactant | (S)-2-(1-aminoethyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 0.20 mmol, 76 mg, 1.0 equiv | N[C@@H](C)C1=NC2=CC=CC(=C2C(N1C1=CC(=CC=C1)OCC(F)(F)F)=O)F | C18H15F4N3O2
reactant | 4-chloro-5-fluoro-7H-pyrrolo[2,3-d]pyrimidine | 0.22 mmol, 38 mg, 1.1 equiv | ClC=1C2=C(N=CN1)NC=C2F | C6H3ClFN3
reactant | diisopropylethylamine | 0.40 mmol, 70 μL, 2.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | t-BuOH | 0.4 mL | CC(C)(C)O | C4H10O
product | (S)-5-fluoro-2-(1-((5-fluoro-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 43 mg, 42% yield | FC1=C2C(N(C(=NC2=CC=C1)[C@H](C)NC=1C2=C(N=CN1)NC=C2F)C2=CC(=CC=C2)OCC(F)(F)F)=O | C24H17F5N6O2
